US09056874B2
(+) or (−)-2-(1-(3-chloro-5-(difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of (+)-2-(1-(5-(difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile (32 mg, 0.083 mmol) in DMF (0.83 mL) was added NCS (17 mg, 0.12 mmol) at 0° C., and the reaction was warmed to room temperature. After 2 hours the reaction was quenched with sat. aq. Na2S2O3 and extracted with EtOAc. The organic extract was dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.51-12.66 (m, 1H) 11.56 (br. s., 1H) 8.04 (m) 7.79-7.83 (m) 7.64-7.70 (m) 7.44-7.56 (m) 6.83-6.89 (m) 6.75 (s, 1H) 6.64-6.70 (m) 6.46-6.51 (m) 6.07-6.20 (m, 1H) 2.45 (s, 3H) 2.18 (s, 3H). HRMS calcd. for C20H15ClF2N4O2 (M+H)+ 417.0925. found 417.0942.

reactant | (+)-2-(1-(5-(difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.083 mmol, 32 mg | FC(OC=1C(=C2C=CNC2=C(C1)C)C(C)(O)C1=NC2=C(N1)C=CC(=C2)C#N)F | C20H16F2N4O2
reactant | NCS | 0.12 mmol, 17 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 0.83 mL | CN(C)C=O | C3H7NO
product | (−)-2-(1-(3-chloro-5-(difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | ClC1=CNC2=C(C=C(C(=C12)C(C)(O)C1=NC2=C(N1)C=CC(=C2)C#N)OC(F)F)C | C20H15ClF2N4O2
